US09056832B2
To THF (90 mL) degassed by purging argon was added 4-fluoroiodobenzene (4.5 g, 20.2 mmol), 4-bromophenylboronic acid (4 g, 20.2 mmol), and tetrabutylammonium flouride (1M in THF, 40.5 mL, 40.5 mmol), and the mixture was degassed again. Pd(dppf)Cl2 (732 mg, 1 mmol) was added and the mixture was degassed again for 15 minutes. The reaction mixture was heated at 65° C. in an oil bath overnight. TLC (heptane eluent) showed the reaction was complete. The reaction mixture was diluted with ethyl acetate and extracted with brine. The organic layer was dried (sodium sulfate) and concentrated to yield the crude product. Purification by column chromatography (60-120 mesh silica, heptane eluent) yielded 3.2 g of 4-bromo-4′-fluoro-1,1′-biphenyl.

reactant | 4-fluoroiodobenzene | 20.2 mmol, 4.5 g | FC1=CC=C(C=C1)I | C6H4FI
reactant | 4-bromophenylboronic acid | 20.2 mmol, 4 g | BrC1=CC=C(C=C1)B(O)O | C6H6BBrO2
reactant | tetrabutylammonium flouride | 40.5 mmol, 1M, 40.5 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | Pd(dppf)Cl2 | 1 mmol, 732 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-bromo-4′-fluoro-1,1′-biphenyl | 3.2 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)F | C12H8BrF
